US08372884B2
Synthesis of ((R)-2-(3-(2-carboxyethyl)thioureido)-3-((2E,6E)-3,7,11-trimethyldodeca-2,6,10-trienylthio)propanoic acid) (Compound N-74):
In a 100 mL round bottom flask, to a suspension of ethyl-3-isothiocynato propionate (1 mmol) and S-trans, trans-farnesyl-L-cysteine (325 mg, 1 mmol) in THF (5 mL) was added N,N-diisopropyl-ethyl-amine (0.87 mL, 5 mmol) dropwise. The solution was stirred at room temperature overnight. The mixture was diluted with ethyl acetate (60 mL) and washed by 0.5 N HCl (10 mL×1), H2O (10 mL×1) and brine (10 mL×1). The organic layer was dried over Na2SO4 and concentrated in vacuo to afford crude Compound N-74. The crude Compound N-74 obtained above was dissolved in THF (3 mL) and a solution of LiOH.H2O (126 mg, 3 mmol) in H2O (2 mL) was added slowly at 0° C. The reaction was left for 4 h. The solution was then diluted with ethyl acetate (60 mL) and washed by 0.5 N HCl (10 mL×1), H2O (10 mL×1) and brine (10 mL×1). The organic layer was dried over Na2SO4 and concentrated in vacuo. The resulting residue was then further purified by preparative HPLC (230 mg, 50%) to yield Compound N-74. 1H-NMR (500 MHz, CD3OD): δ 1.50 (s, 3H), 1.51 (s, 3H), 1.57 (s, 3H), 1.59 (s, 3H), 1.86-2.04 (m, 8H), 2.53 (t, J=6.0 Hz, 2H), 2.77 (dd, J=6.5, 14.0 Hz, 1H), 2.94-2.95 (m, 1H), 3.05-3.06 (m, 1H), 3.15-3.17 (m, 1H), 3.67 (broad, 2H), 5.00-5.01 (m, 2H), 5.09-5.14 (m, 2H). 13C-NMR (125 MHz, CD3OD): δ 16.17, 16.30, 17.81, 25.96, 27.39, 27.79, 30.68, 31.57, 32.81, 33.20, 33.90, 34.56, 37.55, 40.80, 40.89, 57.93, 61.05, 121.34, 121.70, 125.48, 132.11, 136.24, 140.52, 173.76, 174.55, 175.68; ES-MS: mass calcd for Chemical Formula: C22H36N2O4S2 456.66. Found (M+) m/z 457.2, (M+Na) m/z 479.2.

reactant | ethyl-3-isothiocynato propionate | 1 mmol | CCOC(=O)CCN=C=S | C6H9NO2S
reactant | trans-farnesyl-L-cysteine | 1 mmol, 325 mg | CC(=CCC/C(=C/CC/C(=C/CSC[C@@H](C(=O)O)N)/C)/C)C | C18H31NO2S
reactant | N,N-diisopropyl-ethyl-amine | 5 mmol, 0.87 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | LiOH.H2O | 3 mmol, 126 mg | O[Li].O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | H2O | 2 mL | O | H2O
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | (R)-2-(3-(2-carboxyethyl)thioureido)-3-((2E,6E)-3,7,11-trimethyldodeca-2,6,10-trienylthio)propanoic acid | C(=O)(O)CCNC(N[C@H](C(=O)O)CSC\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)=S | C22H36N2O4S2
